US03957790
Preparation of 1-(3,3-diphenylpropyl)-4-benzylpiperazine dihydrochloride:
N-benzylpiperazine in the amount of 1.76 g (0.01 mole), 2.3 g (0.01 mole) of 3,3-diphenylpropyl chloride, 1.5 g (0.015 mole) of calcium carbonate, and 2 ml of dimethyl sulfoxide were mixed with 20 ml of secondary butanol, and the resulting solution was heated at the refluxing temperature for 2.5 hours. The reaction liquid was filtered after being left to cool, and the filtrate was concentrated under reduced pressure to produce an oily residue, which was shaken with ether and water, and the ether layer dried. Then, dry hydrogen chloride gas was passed through the ether solution while cooling the solution to precipitate 1 -(3,3-diphenylpropyl)-4-benzylpiperazine dihydrochloride, whose crystals were recrystallized from methanol to obtaine 3.6 g (81.2% yield) of pure crystals with a melting point of 187° -188°C.

reactant | N-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 3,3-diphenylpropyl chloride | 0.01 mole, 2.3 g | C1(=CC=CC=C1)C(CCCl)C1=CC=CC=C1 | C15H15Cl
reactant | calcium carbonate | 0.015 mole, 1.5 g | C([O-])([O-])=O.[Ca+2]
reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | secondary butanol | 20 ml | C(C)(CC)O | C4H10O
product | 1-(3,3-diphenylpropyl)-4-benzylpiperazine dihydrochloride | 3.6 g, 81.2% yield | Cl.Cl.C1(=CC=CC=C1)C(CCN1CCN(CC1)CC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H30N2.2ClH/c1-4-10-23(11-5-1)22-28-20-18-27(19-21-28)17-16-26(24-12-6-2-7-13-24)25-14-8-3-9-15-25;;/h1-15,26H,16-22H2;2*1H
